Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
uterine fibroids
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy, with 
mini-laparotomy

 
History of Present Illness:
___ gravida 2 para 2 who
underwent an emergent laparoscopic appendectomy in ___.  
An
incidental carcinoid tumor was found.  No further treatment was
recommended.  At the time of her surgery it was mentioned to her
that she had a large, what sounds like pedunculated, leiomyoma
extending above the umbilicus.  While her menses have continued
to remain regular.,  She has noted increasing anemia, bloating,
and heavier menses.  She has increasing urinary frequency and
pelvic pressure and discomfort.  She underwent a pelvic
ultrasound on ___.  This showed a 13.3 x 7.9 x 
9.4
cm uterus.  The endometrial stripe was 1 cm.  There were 
multiple
variable sized leiomyomata with at least one appearing
submucosal.  The largest was exophytic and extended from the
fundus measuring 5.3 cm.  She underwent an endometrial biopsy on
___.  This showed late secretory pattern endometrium. 
Given her increasing symptoms she desires definitive surgical
management.

 
Past Medical History:
Health Maintenance:
-Mammogram: ___
-Colonoscopy: Never
-Bone Mineral Density: Never

PMH:
PSORIASIS                                                       
ANEMIA                                                          
UTERINE FIBROIDS                                                

Surgical history:
APPENDECTOMY                                          ___   
carcinoid                                                       

CESAREAN SECTION                                                
___ - breech second C/S ___                               

OBHx: G2 p2; C-SECTION X 2

GYNHx:
- LMP ___ menses as above
-Last Pap normal in ___.
- Denies history of pelvic infections or STIs

 
Social History:
___
Family History:
- Mother: sarcoma, fibroids
- Father: dementia, psoriasis
    
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 07:42AM BLOOD WBC-9.2 RBC-3.30* Hgb-7.8* Hct-25.9* 
MCV-79* MCH-23.6* MCHC-30.1* RDW-15.8* RDWSD-45.1 Plt ___
___ 12:11PM BLOOD WBC-16.6* RBC-3.85* Hgb-9.3* Hct-30.0* 
MCV-78* MCH-24.2* MCHC-31.0* RDW-15.3 RDWSD-43.2 Plt ___
___ 07:42AM BLOOD Glucose-90 UreaN-10 Creat-0.7 Na-138 
K-3.8 Cl-103 HCO3-26 AnGap-13
___ 12:11PM BLOOD Glucose-180* UreaN-17 Creat-0.7 Na-136 
K-3.6 Cl-99 HCO3-24 AnGap-17
___ 07:42AM BLOOD Calcium-8.3* Phos-2.9 Mg-1.9
___ 12:11PM BLOOD Calcium-8.6 Phos-3.8 Mg-1.6
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingectomy, and mini laparotomy for fibroid uterus. Please 
see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV toradol and IV 
dilaudid. Her diet was advanced without difficulty and she was 
transitioned to PO Tylenol, ibuprofen, and dilaudid. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*1 
3.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*28 Tablet Refills:*1 
4.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
do not drive or drink alcohol while taking this medication. 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 4 
hours Disp #*50 Tablet Refills:*0 
5.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.
.
The gastroenterology (GI) team will be contacting you for follow 
up about splenic lesions.  If you do not hear from them in 1 
week, please call their office at ___.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___